US04321268
Preparation of 5,6,7,8-Tetrahydro-1-naphthyl-nicotinate
7 g (47 mmol) of 5,6,7,8-tetrahydro-1-naphthol and 9 g (50 mmol) of nicotinic acid chloride hydrochloride was mixed with 130 ml of dry pyridine and stirred for 24 hours at 30° C. After cooling precipitated pyridine hydrochloride was sucked off, and the filtrate mixed with 300 ml of water. The precipitated raw product was washed with two 200 ml portions of water and recrystallized from methanol.

reactant | 5,6,7,8-tetrahydro-1-naphthol | 47 mmol, 7 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | nicotinic acid chloride hydrochloride | 50 mmol, 9 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
product | 5,6,7,8-Tetrahydro-1-naphthyl-nicotinate | C1(=CC=CC=2CCCCC12)OC(C1=CN=CC=C1)=O | C16H15NO2
